US06444702B1
1-(benzyloxycarbonyl)amino-3,5-dimethyl-7-hydroxymethyl adamantane (19)
To a solution of 1-amino-3,5-dimethyl-7-hydroxymethyl adamantane (60 mg) in THF (3 mL) was added N-(benzyloxycarbonyloxy)-succinimide (74 mg) and the mixture was stirred at room temperature overnight. THF was removed and the residue was dissolved in ethyl acetate. The solution was washed with water and brine. The product was purified by thin layer chromatography eluting with ethyl acetate and hexane (1:4, v/v) to give a white solid (80 mg). 1H NMR (DMSO-d6, ppm): 7.33 (in, 5 H, C6H5), 6.89 (brs, 1 H, NH), 4.94 (s, 2 H, OCH2), 4.32 (t, 1 H, OH, J=5.7 Hz), 3.04 (d, 2 H, CH2OH, J=5.7 Hz), 1.46 (dd, 6 H), 1.04 (dd, 6 H), 0.84 (s, 6 H, 2×CH3).

reactant | 1-amino-3,5-dimethyl-7-hydroxymethyl adamantane | 60 mg | NC12CC3(CC(CC(C1)(C3)CO)(C2)C)C | C13H23NO
reactant | N-(benzyloxycarbonyloxy)-succinimide | 74 mg | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(benzyloxycarbonyl)amino-3,5-dimethyl-7-hydroxymethyl adamantane | 80 mg | C(C1=CC=CC=C1)OC(=O)NC12CC3(CC(CC(C1)(C3)CO)(C2)C)C | C21H29NO3
